US07226920B2
4-[1-(2-Chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide.
To a solution of 250 mg of 4-[5-amino-1-(2-chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide (0.686 mmol, 1 equiv) in 40 mL of 1:1 THF:iPrOH, 160 mg of isoamyl nitrite (1.37 mmol, 2 equiv) was added. The dark yellow solution was stirred for 12 h at 25° C. and then heated under reflux for 6 h. The reaction mixture was cooled and concentrated in vacuo. The resulting yellow solid was triturated with methanol and filtered to give the title compound as a yellow solid (118.9 mg, 50%); 1H NMR (400 MHz, (CD3)2SO) ∂ 10.20 (1H, s), 9.42 (1H, s), 8.55 (1H, d, J=5.6), 8.07 (1H, m), 7.95 (1H, dd, J=5.6 and 1.8), 7.77 (4H, m) and 7.18 (2H, s); MS (ES+) m/e 351.36, (ES−) m/e 349.48

reactant | 4-[5-amino-1-(2-chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide | 0.686 mmol, 250 mg, 1 equiv | NC1=NC(=NN1C1=CC(=NC=C1)Cl)NC1=CC=C(C=C1)S(=O)(=O)N | C13H12ClN7O2S
reactant | iPrOH | CC(C)O | C3H8O
reactant | isoamyl nitrite | 1.37 mmol, 160 mg, 2 equiv | N(=O)OCCC(C)C | C5H11NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-[1-(2-Chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-benzenesulfonamide | 118.9 mg, 50% | ClC1=NC=CC(=C1)N1N=C(N=C1)NC1=CC=C(C=C1)S(=O)(=O)N | C13H11ClN6O2S
